US07700623B2
To an ethanol (5 mL) solution of 0.20 g of 4-(3-{4-[3-(4-{amino[(2S,3S)-2-(tert-butoxycarbonyl)amino-3-methylpentanoyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)benzamide=O-[(2S,3S)-2 (tert-butoxycarbonyl)amino-3-methylpentanoyl]oxime was added 2 mL of 2.9 mol/L hydrogen chloride/ethanol at room temperature, which was then stirred at the same temperature for 5 hours. Thereto was added 2 mL of 2.9 mol/L hydrogen chloride/ethanol, which was then stirred for 26 hours. Thereto was further added 1 mL of 2.9 mol/L hydrogen chloride/ethanol, which was then stirred for 3 days. The solvent was distilled off under reduced pressure, and the resultant solid was suspended in diisopropyl ether, followed by collecting the solid matter by filtration before washing with diisopropyl ether to provide 0.13 g of 4-{3-[4-(3-{4-[amino((2S,3S)-2-amino-3-methylpentanoyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide=O-((2S,3S)-2-amino-3-methylpentanoyl)oxime hydrochloride as white solid form.

reactant | 4-(3-{4-[3-(4-{amino[(2S,3S)-2-(tert-butoxycarbonyl)amino-3-methylpentanoyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)benzamide | 0.20 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NOC([C@H]([C@H](CC)C)NC(=O)OC(C)(C)C)=O | C36H53N5O7
reactant | hydrogen chloride ethanol | 2.9 mol/L, 2 mL | Cl.C(C)O
reactant | hydrogen chloride ethanol | 2.9 mol/L, 2 mL | Cl.C(C)O
reactant | hydrogen chloride ethanol | 2.9 mol/L, 1 mL | Cl.C(C)O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-{3-[4-(3-{4-[amino((2S,3S)-2-amino-3-methylpentanoyloxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide | 0.13 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NOC([C@H]([C@H](CC)C)N)=O | C31H45N5O5
